US07291635B2
A solution of the title A compound, 5-methyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester (34.15 g, 141 mmol) in CCl4 (200 mL) is treated with N-bromosuccinimide (NBS, 25.08 g, 141 mmol) and 2,2′-azobisisobutyronitrile (1.0 g, 6 mmol). The mixture is irradiated with a 450 W mercury lamp for 3 h. An additional 2.5 g of NBS is added and the mixture is further irradiated for 2 h. The mixture is filtered through Celite and a plug of silica gel. The solvent is evaporated to give 5-bromomethyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester as a yellow liquid.

reactant | 5-methyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester | 141 mmol, 34.15 g | C[Si](CCOC(=O)C=1SC(=CC1)C)(C)C | C11H18O2SSi
reactant | N-bromosuccinimide | 141 mmol, 25.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 6 mmol, 1.0 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | NBS | 2.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | mercury | [Hg] | Hg
product | 5-bromomethyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(=O)C=1SC(=CC1)CBr)(C)C | C11H17BrO2SSi
